US05719141
b) 3(R,S)-Methylaminocarbonylamino-1,2,3,4-tetrahydroquinoline
1.4 g of 3-(methylaminocarbonylamino)quinoline in 40 ml of ethanol are hydrogenated in a manner analogous to that described in Example 93). The crude product is purified over 200 g of silica gel with a 99:1:1 mixture of methylene chloride, methanol and glacial acetic acid as the mobile phase: Rf (L)=0.34; MS: M+ =205.

reactant | 3-(methylaminocarbonylamino)quinoline | 1.4 g | CNC(=O)NC=1C=NC2=CC=CC=C2C1 | C11H11N3O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3(R,S)-Methylaminocarbonylamino-1,2,3,4-tetrahydroquinoline | CNC(=O)NC1CNC2=CC=CC=C2C1 | C11H15N3O
